US08193189B2
3-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-azetidine-1-carboxylic acid tert-butyl ester
NaH (60% in mineral oil, 222 mg, 5.6 mmol) is added portionwise to a stirred solution of 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (1.10 g, 5.56 mmol) in DMF (20 ml). The resulting mixture is stirred for 1 h at 0° C. and then allowed to warn to RT. A solution of 3-Methanesulfonyloxy-azetidine-1-carboxylic acid tert-butyl ester (as obtained in preparation 80, 1.39 g, 5.56 mmol) in DMF (3 ml) is then added dropwise. After complete addition, the reaction mixture is heated at 95° C. for 5 h. The reaction is quenched with water and extracted with EtOAc several times. The combined organic layers are washed with brine, dried over Na2SO4, filtered and the filtrate is concentrated in vacuo. The residue is purified by chromatography on a 40 g silica gel column on a Combiflash Companion™ (Isco Inc.) apparatus (gradient CH2Cl2: TBDME from 1:0=>0:1) to afford the title compound as a colorless foam, Rt=1.200 min (Acquity HPLC BEH C18, 2.1×50 mm, 1.7 micron, detection 215 nM, 0.1 min 2% CH3CN in H2O, 2% to 100% CH3CN in H2O in 1.5 min, 0.4 min 100% CH3CN+0.1% TFA, flow rate 1.0 ml/min); MS: 350 (M+1)+.

reactant | NaH | 5.6 mmol, 222 mg | [H-].[Na+]
reactant | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 5.56 mmol, 1.10 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | 3-Methanesulfonyloxy-azetidine-1-carboxylic acid tert-butyl ester | 5.56 mmol, 1.39 g | C(C)(C)(C)OC(=O)N1CC(C1)OS(=O)(=O)C | C9H17NO5S
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 3-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C17H28BN3O4
